US04199506
To 130.14 g (1.00 mole) of ethyl acetoacetate was added 1.5 g of sodium. The reaction temperature increased spontaneously to 50° C. The reaction mixture was cooled with an ice bath. To the cooled reaction mixture was added, with vigorous stirring at 30°-50° C., 144.3 g (1.00 mole) of trichloroacetonitrile in 30 minutes. After complete addition of the trichloroacetonitrile, the reaction mixture was cooled with a dry ice bath. No precipitate of the ethyl 2-acetyl-3-amino-4,4,4-trichlorocrotonate formed. Part of the above product was stirred with 100 ml. of concentrated 28-30% ammonium hydroxide for 2 hours. The reaction mixture was then extracted with ether. The ether solution was dried (CaSO4) and concentrated to give 180 g (82.5%) of crude ethyl 3-amino-4,4,4-trichlorocrotonate. Part of this crude material (20 g) was distilled at 0.5 mm Hg to give 11.7 g of pure product, m.p. 91°-95° C. To a cold (10° C.) solution of 21.8 g (0.0937 mole) of crude ethyl 3-amino-4,4,4-trichlorocrotonate in 15 ml. of chlorobenzene was added 13.5 g (0.103 mole) of chlorocarbonylsulfenyl chloride. The reaction temperature rose spontaneously to 35° C. after the ice water bath was removed. The reaction mixture was stirred at 65° C. for 1 hour, cooled and triturated with petroleum ether to give 10.3 g (38%) of ethyl 2,3-dihydro-2-oxo-4-trichloromethyl-5-thiazolecarboxylate, m.p. 109°-110° C. A mixture of 14.5 g (0.05 mole) of ethyl 2,3-dihydro-2-oxo-4-trichloromethyl-5-thiazolecarboxylate, 10.4 g (0.05 mole) of phosphorus pentachloride, and 100 ml. of phosphorus oxychloride was held at reflux for 7 days. Excess phosphorus oxychloride was removed under reduced pressure. The residue was treated with ice water and the aqueous mixture was extracted with ether. The ether solution was extracted with 10% sodium hydroxide, dried (CaSO4) and concentrated under reduced pressure to give 3.2 g of oil which was chromatographed on silica gel using 5% ethyl acetate-petroleum ether as eluant. The first 1.2 l. of eluant gave 2.27 g of solid which was recrystallized from petroleum ether at low temperature to give 2.13 g (13.8%) of ethyl 2-chloro-4-trichloromethyl-5-thiazolecarboxylate, m.p. 42.5°-43.5° C.

reactant | ethyl acetoacetate | 1.00 mole, 130.14 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium | 1.5 g | [Na] | Na
reactant | trichloroacetonitrile | 1.00 mole, 144.3 g | ClC(C#N)(Cl)Cl | C2Cl3N
product | ethyl 2-acetyl-3-amino-4,4,4-trichlorocrotonate | C(C)(=O)/C(/C(=O)OCC)=C(\C(Cl)(Cl)Cl)/N | C8H10Cl3NO3
